US04281017
2-Benzylidene-3-oxo-5-indaneacetic acid
3-Oxo-5-indaneacetic acid (4.94 g, 0.026 mol) was added to a stirred solution of 85% KOH (3.43 g, 0.052 mol) in EtOH (73 ml) containing benzaldehyde (2.76 g, 0.026 mol) at 10° C. and stirred for 40 minutes. The potassium salt of the precipitated product was filtered off, dissolved in H2O (100 ml) was acidified with conc. HCl to give the title product, m.p. 202°-4° C. (EtOH).

reactant | 3-Oxo-5-indaneacetic acid | 0.026 mol, 4.94 g | O=C1CCC2=CC=C(C=C12)CC(=O)O | C11H10O3
reactant | KOH | 0.052 mol, 3.43 g | [OH-].[K+]
reactant | benzaldehyde | 0.026 mol, 2.76 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | EtOH | 73 ml | CCO | C2H6O
product | 2-Benzylidene-3-oxo-5-indaneacetic acid | C(C1=CC=CC=C1)=C1CC2=CC=C(C=C2C1=O)CC(=O)O | C18H14O3
